US05278244
4c) (4-Vinylphenyl)dimethyl-2-propoxysilane
A solution of isopropoxydimethylchlorosilane (15.2 g, 100 mmole) in dry THF (50 mL) was added dropwise over a 1 hour period to a solution of (4-vinylphenyl)magnesium chloride, prepared from 4-vinylphenyl chloride (13.85 g, 100 mmole) and magnesium (3.0 g, 125 mmole) in dry 100 mL THF. The temperature was maintained at 10° C. during the addition. The reaction mixture was stirred at room temperature for over 18 hours. The desired product distilling at 45°-49° C./0.2 mm was obtained in 45% yield.

reactant | isopropoxydimethylchlorosilane | 100 mmole, 15.2 g | C(C)(C)O[Si](Cl)(C)C | C5H13ClOSi
reactant | (4-vinylphenyl)magnesium chloride | C(=C)C1=CC=C(C=C1)[Mg]Cl
reactant | 4-vinylphenyl chloride | 100 mmole, 13.85 g | C(=C)C1=CC=C(C=C1)Cl | C8H7Cl
reactant | magnesium | 125 mmole, 3.0 g | [Mg] | Mg
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-Vinylphenyl)dimethyl-2-propoxysilane | 45% yield | C(=C)C1=CC=C(C=C1)[Si](OC(C)C)(C)C | C13H20OSi
